US07566724B2
In the same manner as in Example 1, 2-(2,6-dichlorobenzamido)pent-4-enoic acid methyl ester (60 mg) was reacted with 2-(4-iodophenoxy)-4-methoxypyrimidine (78 mg) to obtain (E)-2-(2,6-dichlorobenzamido)-5-[4-(4-methoxypyrimidin-2-yloxy)phenyl]pent-4-enoic acid methyl ester (32 mg). Column chromatography (silica gel, eluent: hexane/ethyl acetate=2/1→cyclohexane/chloroform=1/1→1/10→0/1) was used for purification.

reactant | 2-(2,6-dichlorobenzamido)pent-4-enoic acid methyl ester | 60 mg | COC(C(CC=C)NC(C1=C(C=CC=C1Cl)Cl)=O)=O | C13H13Cl2NO3
reactant | 2-(4-iodophenoxy)-4-methoxypyrimidine | 78 mg | IC1=CC=C(OC2=NC=CC(=N2)OC)C=C1 | C11H9IN2O2
product | (E)-2-(2,6-dichlorobenzamido)-5-[4-(4-methoxypyrimidin-2-yloxy)phenyl]pent-4-enoic acid methyl ester | 32 mg | COC(C(C\C=C\C1=CC=C(C=C1)OC1=NC=CC(=N1)OC)NC(C1=C(C=CC=C1Cl)Cl)=O)=O | C24H21Cl2N3O5
